US09238647B2
Step A: Ethyl 2-(trifluoromethyl)pyrimidine-5-carboxylate
To a solution of ethyl 4-chloro-2-(trifluoromethyl)pyrimidine-5-carboxylate (30.2 g, 119.0 mmol) in ethanol (594 mL) under nitrogen were added palladium (10% on carbon, 50% water wet; 2.58 g, 1.21 mmol) and diisopropylethylamine (50.0 mL, 286.0 mmol). The mixture stirred under hydrogen (1 atm). After 6 h, the mixture was filtered with Celite. The filtrate was concentrated and ethyl acetate was added. The mixture was washed with sat. NaHCO3 (2×), brine, dried over Na2SO4, filtered and concentrated to give the title compound (25.6 g). MS 221.1 (M+1).

reactant | ethyl 4-chloro-2-(trifluoromethyl)pyrimidine-5-carboxylate | 119.0 mmol, 30.2 g | ClC1=NC(=NC=C1C(=O)OCC)C(F)(F)F | C8H6ClF3N2O2
reactant | diisopropylethylamine | 286.0 mmol, 50.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 594 mL | C(C)O | C2H6O
catalyst | palladium | 1.21 mmol, 2.58 g | [Pd] | Pd
product | Ethyl 2-(trifluoromethyl)pyrimidine-5-carboxylate | 25.6 g | FC(C1=NC=C(C=N1)C(=O)OCC)(F)F | C8H7F3N2O2
